US04290974
Preparation of compound no. 18 in Table (1) 3-(4'-Butoxybenzylidene)-bornan-2-one
A solution of 100 millimols (15.2 g) of camphor in 250 ml of toluene is heated for 1 hour at the boil with 100 mmols (5.4 g) of sodium methylate. After cooling, 100 mmols (17.8 g) of p-butoxybenzaldehyde are introduced and the mixture is heated at the reflux temperature for 4 hours. The reaction mixture is cooled and 50 ml of water are then added; the toluene phase is separated off, washed with water, dried over sodium sulphate and concentrated to dryness. The solid residue is crystallised from aqueous isopropanol. After drying, 12 g of a white powder, which melts at 62°, are collected.

reactant | camphor | 100 millimols, 15.2 g | C12(C(=O)CC(CC1)C2(C)C)C | C10H16O
reactant | sodium methylate | 100 mmols, 5.4 g | C[O-].[Na+]
reactant | p-butoxybenzaldehyde | 100 mmols, 17.8 g | C(CCC)OC1=CC=C(C=O)C=C1 | C11H14O2
reactant | water | 50 ml | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4'-Butoxybenzylidene)-bornan-2-one | C(CCC)OC1=CC=C(C=C2C(C3(CCC2C3(C)C)C)=O)C=C1 | C21H28O2
